US04544659
1.9 g of 10-methyl-9acridanone thiosemicarbazone are suspended in 100 ml of methanol and stirred at 50° for 6 hours with 1.73 ml of chloroacetaldehyde (50percent aqueous solution). The mixture is concentrated, the crystalline product is filtered and washed successively with ethanol, water, ethanol and ether. There is obtained 10-methyl-9-acridanone (2-thiazolyl)hydrazone hydrochloride of melting point 224°-225° (decomposition).

reactant | 10-methyl-9acridanone thiosemicarbazone | 1.9 g | CN1C=2C=CC=CC2C(C2=CC=CC=C12)=NNC(=S)N | C15H14N4S
reactant | chloroacetaldehyde | 1.73 ml | ClCC=O | C2H3ClO
solvent | methanol | 100 ml | CO | CH4O
product | 10-methyl-9-acridanone (2-thiazolyl)hydrazone hydrochloride | Cl.S1C(=NC=C1)NN=C1C2=CC=CC=C2N(C=2C=CC=CC12)C | InChI=1S/C17H14N4S.ClH/c1-21-14-8-4-2-6-12(14)16(13-7-3-5-9-15(13)21)19-20-17-18-10-11-22-17;/h2-11H,1H3,(H,18,20);1H
